US04585879
α-Chloro-2-Nitrobenzenepropanoic Acid
To a magnetically stirred solution of α-hydroxy-2-nitrobenzenepropanoic acid (1.00 g, 4.74 mmol) in N,N-dimethylformamide (2 ml, 25.85 mmol) cooled in ice was added thionyl chloride (12 ml, 164.5 mmol) slowly dropwise. The cooling bath was removed and the solution was left at room temperature (20° C.) overnight. The solution was evaporated to a solid. Ice and dichloromethane were added and the mixture was stirred magnetically for one hour, during which time it warmed to room temperature. The layers were separated and the organic phase was washed six times with water. The dried (MgSO4) solution was evaporated to a syrup which was subjected to an oil pump vacuum; yield 1.09 g Examination of the syrup on the μ-Bondapak C18 chromatographic column (Waters Associates) using a solvent system containing 90% of 0.1N ammonium acetate, pH 4.0 buffer and 10% acetonitrile revealed three components. The major component, which was present to the extent of 74% of the mixture, was separated on a Waters Associates Prep. 500 unit using a C18 cartridge and the solvent system mentioned above. Appropriate fractions were evaporated to a syrup below room temperature. The syrup was mixed with dilute hydrochloric acid and chloroform. The organic phase was washed twice with saturated brine and dried (MgSO4). The solution was evaporated to a syrup which crystallized spontaneously (0.48 g, 44%). Crystallization from chloroform-cyclohexane gave 0.33 g (31%) of the titled product; m.p. 108°-109°; MH+ 230 (1 Cl, CI mode); λmaxKBr 1707, 1725 (COOH), pmr (CDCl3) δ3.22-3.96 (8 lines, AB part of an ABX system, --CH2 --), 4.60-4.88 (q centered at 4.76, width 14 Hz, "J" 6 Hz, X part of ABX system, >CH), 7.32-8.16 (m, aromatic).

reactant | α-hydroxy-2-nitrobenzenepropanoic acid | 4.74 mmol, 1.00 g | OC(C(=O)O)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H9NO5
reactant | N,N-dimethylformamide | 25.85 mmol, 2 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 164.5 mmol, 12 ml | S(=O)(Cl)Cl | Cl2OS
product | α-Chloro-2-Nitrobenzenepropanoic Acid | 0.33 g, 31% | ClC(C(=O)O)CC1=C(C=CC=C1)[N+](=O)[O-] | C9H8ClNO4
